Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
C[O:1][c:2]1[c:3]([CH:4]([CH3:5])[CH3:6])[cH:7][c:8]([CH:9]=[CH:10][C:11]([O:12][CH3:13])=[O:14])[cH:15][c:16]1[CH:17]([CH3:18])[CH3:19]>>[OH:1][c:2]1[c:3]([CH:4]([CH3:5])[CH3:6])[cH:7][c:8](/[CH:9]=[CH:10]/[C:11]([O:12][CH3:13])=[O:14])[cH:15][c:16]1[CH:17]([CH3:18])[CH3:19],[CH3:101][O:1][c:2]1[c:3]([CH:4]([CH3:5])[CH3:6])[cH:7][c:8]([CH:9]=[CH:10][C:11]([O:12][CH3:13])=[O:14])[cH:15][c:16]1[CH:17]([CH3:18])[CH3:19].Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[c:3]([CH:4]([CH3:5])[CH3:6])[cH:7][c:8](/[CH:9]=[CH:10]/[C:11]([O:12][CH3:13])=[O:14])[cH:15][c:16]1[CH:17]([CH3:18])[CH3:19],O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][C:2]([C:3]([NH:4][c:5]1[cH:6][cH:7][c:8]([O:9][CH3:10])[c:11]([NH:12][S:13](=[O:14])(=[O:15])[c:16]2[cH:17][cH:18][c:19](-[c:20]3[cH:21][cH:22][c:23]([CH3:24])[o:25]3)[c:26]([F:27])[cH:28]2)[cH:29]1)=[O:30])([CH3:31])[CH2:32][OH:33]>>[NH2:1][C@@:2]([C:3]([NH:4][c:5]1[cH:6][cH:7][c:8]([O:9][CH3:10])[c:11]([NH:12][S:13](=[O:14])(=[O:15])[c:16]2[cH:17][cH:18][c:19](-[c:20]3[cH:21][cH:22][c:23]([CH3:24])[o:25]3)[c:26]([F:27])[cH:28]2)[cH:29]1)=[O:30])([CH3:31])[CH2:32][OH:33],[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][C:2]([C:3]([NH:4][c:5]1[cH:6][cH:7][c:8]([O:9][CH3:10])[c:11]([NH:12][S:13](=[O:14])(=[O:15])[c:16]2[cH:17][cH:18][c:19](-[c:20]3[cH:21][cH:22][c:23]([CH3:24])[o:25]3)[c:26]([F:27])[cH:28]2)[cH:29]1)=[O:30])([CH3:31])[CH2:32][OH:33].[H+:301]>>[NH2:1][C@@:2]([C:3]([NH:4][c:5]1[cH:6][cH:7][c:8]([O:9][CH3:10])[c:11]([NH:12][S:13](=[O:14])(=[O:15])[c:16]2[cH:17][cH:18][c:19](-[c:20]3[cH:21][cH:22][c:23]([CH3:24])[o:25]3)[c:26]([F:27])[cH:28]2)[cH:29]1)=[O:30])([CH3:31])[CH2:32][OH:33],Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[n:3][c:4]([CH3:5])[o:6][cH:7]1)=[O:8].[CH3:9][NH:10][C:11](=[O:12])[CH2:13][O:14][c:15]1[cH:16][c:17]([C:18]#[N:19])[cH:20][cH:21][c:22]1[CH2:23][NH2:24]>>[C:1]([c:2]1[n:3][c:4]([CH3:5])[o:6][cH:7]1)(=[O:8])[NH:24][CH2:23][c:22]1[c:15]([O:14][CH2:13][C:11]([NH:10][CH3:9])=[O:12])[cH:16][c:17]([C:18]#[N:19])[cH:20][cH:21]1,[CH3:9][NH:10][C:11](=[O:12])[CH2:13][O:14][c:15]1[cH:16][c:17]([C:18]#[N:19])[cH:20][cH:21][c:22]1[CH2:23][NH2:24].[OH:101][C:1]([c:2]1[n:3][c:4]([CH3:5])[o:6][cH:7]1)=[O:8].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[n:3][c:4]([CH3:5])[o:6][cH:7]1)(=[O:8])[NH:24][CH2:23][c:22]1[c:15]([O:14][CH2:13][C:11]([NH:10][CH3:9])=[O:12])[cH:16][c:17]([C:18]#[N:19])[cH:20][cH:21]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (24, 1), ([1, 8], 8), (303, 24.1), ([24.1, 24], 24), (8, [8, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C@H:2]([CH2:3][C:4]([O:5][CH2:6][CH3:7])=[O:8])[CH2:9][CH:10]([CH3:11])[CH3:12].[N-:13]=[N+:14]=[N-:15]>>[CH2:1]([C@H:2]([CH2:3][C:4]([O:5][CH2:6][CH3:7])=[O:8])[CH2:9][CH:10]([CH3:11])[CH3:12])[N:13]=[N+:14]=[N-:15],[Br:101][CH2:1][C@H:2]([CH2:3][C:4]([O:5][CH2:6][CH3:7])=[O:8])[CH2:9][CH:10]([CH3:11])[CH3:12].[N-:13]=[N+:14]=[N-:15]>>[CH2:1]([C@H:2]([CH2:3][C:4]([O:5][CH2:6][CH3:7])=[O:8])[CH2:9][CH:10]([CH3:11])[CH3:12])[N:13]=[N+:14]=[N-:15],SN2,"[(13, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][n:7]1.[CH3:8][c:9]1[cH:10][c:11]2[c:12]([cH:13][cH:14][c:15]3[n:16][n:17][c:18]([CH3:19])[n:20]23)[nH:21]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][n:7]1)[n:21]1[c:9]([CH3:8])[cH:10][c:11]2[c:12]1[cH:13][cH:14][c:15]1[n:16][n:17][c:18]([CH3:19])[n:20]21,[CH3:8][c:9]1[cH:10][c:11]2[c:12]([cH:13][cH:14][c:15]3[n:16][n:17][c:18]([CH3:19])[n:20]23)[nH:21]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][n:7]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][n:7]1)[n:21]1[c:9]([CH3:8])[cH:10][c:11]2[c:12]1[cH:13][cH:14][c:15]1[n:16][n:17][c:18]([CH3:19])[n:20]21,SN2,"[(21, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
